US05472978
3,5-Dimethylbenzyl 2-benzenesulphonamido-3-(3-indolyl)propionate
3,5-Dimethylbenzyl 2-amino-3-(3-indolyl)propionate hydrochloride (1.0 g) was suspended in tetrahydrofuran (10 ml). Triethylamine (0.38 ml) was added and the solution was stirred for 15 mins. Benzenesulphonyl chloride (0.35 ml) was added and the solution was stirred at room temperature for 1 hour. Work-up as for Example 14 gave a solid which was recrystallised from ethanol to yield the title compound, 0.85 g, m.p. 114°-116° C. 1H NMR (360 MHz, CDCl3) δ7.98 (1H, s), 7.72 (2H, d, J=7 Hz), 7.54-7.30 (5H, m), 7.17 (1H, t, J=7 Hz), 7.06 (1H, t. J=7 Hz), 6.94 (1H, s), 6.89 (1H, s), 6.62 (2H, s), 5.17 (1H, d, J=9.2 Hz), 4.68 (2H, ABq, J=11.9 Hz), 4.33 (1H, m), 3.27 (2H, m), 2.27 (6H, s).

reactant | 3,5-Dimethylbenzyl 2-amino-3-(3-indolyl)propionate hydrochloride | 1.0 g | Cl.NC(C(=O)OCC1=CC(=CC(=C1)C)C)CC1=CNC2=CC=CC=C12
reactant | Triethylamine | 0.38 ml | C(C)N(CC)CC | C6H15N
reactant | Benzenesulphonyl chloride | 0.35 ml | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 3,5-Dimethylbenzyl 2-benzenesulphonamido-3-(3-indolyl)propionate | C1(=CC=CC=C1)S(=O)(=O)NC(C(=O)OCC1=CC(=CC(=C1)C)C)CC1=CNC2=CC=CC=C12 | C26H26N2O4S
